US08530504B2
3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methyl-2-(methylsulfinyl)-N,N-dipropylpyrazolo[5,1-b][1,3]thiazole-7-amine
To a dichloromethane (670 μl) solution of 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methyl-2-(methylthio)-N,N-dipropylpyrazolo[5,1-b][1,3]thiazole-7-amine (31.5 mg, 0.068 mmol) was added 3-chloroperbenzoic acid (23.4 mg, 0.136 mmol), and the mixture was stirred at room temperature for 10 minutes. To the reaction mixture, a saturated aqueous solution of sodium carbonate was added, the mixture was extracted with dichloromethane, and then, the organic layer was dried over anhydrous magnesium sulfate. The mixture was filtered to yield a filtrate, and the solvent in the filtrate was distilled off under reduced pressure. The residue was purified by thin-layer silica gel chromatography (chloroform:methanol=12:1) to obtain 7.3 mg (0.0152 mmol) of the title compound.

reactant | 3-[2,6-dimethoxy-4-(methoxymethyl)phenyl]-6-methyl-2-(methylthio)-N,N-dipropylpyrazolo[5,1-b][1,3]thiazole-7-amine | 0.068 mmol, 31.5 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1SC)=C(C(=N2)C)N(CCC)CCC | C23H33N3O3S2
reactant | 3-chloroperbenzoic acid | 0.136 mmol, 23.4 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 670 μl | ClCCl | CH2Cl2
product | 3-[2,6-Dimethoxy-4-(methoxymethyl)phenyl]-6-methyl-2-(methylsulfinyl)-N,N-dipropylpyrazolo[5,1-b][1,3]thiazole-7-amine | 0.0152 mmol, 7.3 mg | COC1=C(C(=CC(=C1)COC)OC)C=1N2C(SC1S(=O)C)=C(C(=N2)C)N(CCC)CCC | C23H33N3O4S2
